US05571810
Nitric acid (d=1.42; 1.6 ml) was added dropwise to a stirred solution of 2-(4-fluorophenyl)-3-[4-(methylsulfonyl)phenyl]thiophene (6 g) in acetic anhydride (98 ml) at -5° to 0° C. The mixture was stirred for 1 hour at 0° C., treated with sodium bicarbonate (1 g), and concentrated under reduced pressure. The residue was dissolved in ethyl acetate, washed with water and an aqueous solution of sodium bicarbonate, and concentrated. The residue was purified by column chromatography on silica gel eluting with a mixture of toluene and ethyl acetate (20:1) to give yellow crystals of 2-(4-fluorophenyl)-3-[4-(methylsulfonyl)phenyl]-5-nitrothiophene (4.4 g).

reactant | Nitric acid | 1.6 ml | [N+](=O)(O)[O-] | HNO3
reactant | 2-(4-fluorophenyl)-3-[4-(methylsulfonyl)phenyl]thiophene | 6 g | FC1=CC=C(C=C1)C=1SC=CC1C1=CC=C(C=C1)S(=O)(=O)C | C17H13FO2S2
reactant | sodium bicarbonate | 1 g | C([O-])(O)=O.[Na+]
solvent | acetic anhydride | 98 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 2-(4-fluorophenyl)-3-[4-(methylsulfonyl)phenyl]-5-nitrothiophene | 4.4 g | FC1=CC=C(C=C1)C=1SC(=CC1C1=CC=C(C=C1)S(=O)(=O)C)[N+](=O)[O-] | C17H12FNO4S2
